US06348032B1
A mixture of 3-nitro-4-phenylacetylamino-ethylbenzoate (3.60 g), ethanol (47 ml), acetic acid (23 ml) and iron (6.4 g) is refluxed by heating for four hours. Solids are separated through filtration and the filtrate is concentrated. Ethanol (50 ml) and 35% hydrochloric acid (5 g) are added to the residue and the solution is stirred for 40 hours as it is refluxed by heating. The solution is neutralized with sodium bicarbonate and chloroform extraction is performed. The organic layer is concentrated under reduced pressure and then purified using silica gel column chromatography. Thus, 2-benzyl-5-ethoxy-carbonylbenzimidazole (2.30 g) is obtained. 1H-NMR (CDCl3, δ): 1.39 (3H, t, J =7.1Hz), 4.26 (2H, s), 4.37 (2H, q, J=7.1Hz), 7.22-7.36 (5H, m), 7.50 (1H, d, J=8.6Hz), 7.94 (1H, dd, J=1.5 and 8.6Hz), 8.23 (1H, d, J=1.3Hz).

reactant | 3-nitro-4-phenylacetylamino-ethylbenzoate | 3.60 g | [N+](=O)([O-])C=1C(=C(C(=O)[O-])C=CC1NC(CC1=CC=CC=C1)=O)CC
reactant | ethanol | 47 ml | C(C)O | C2H6O
reactant | acetic acid | 23 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 6.4 g | [Fe] | Fe
product | 2-benzyl-5-ethoxy-carbonylbenzimidazole | 2.30 g | C(C1=CC=CC=C1)C=1N=C2C(N1)=CC=C(C2=C=O)OCC | C17H14N2O2
